US07208493B2
Acetic acid 4-[2-(4-acetoxy-phenyl)-6-amino-pyrido[2,3-b]pyrazin-3-yl]-phenyl ester
201.0 mg (0.5 mmol) of 2,3-bis(4-hydroxyphenyl)-pyrido[2,3-b]pyrazin-6-ylamine was dissolved in 10 ml of trifluoroacetic acid. 0.355 mL (5.0 mmol, 10.0 eq) of acetyl chloride was added via syringe to this mixture. Upon heating to 80° C. bubbling of the reaction mixture and evolution of HCl gas was observed. The reaction mixture was heated at 80° C. for 1 hr, at which point LC/MS indicated a complete conversion of the starting material to the di-acetate. Solvent was removed in vacuo to give brown solid. The solid was dissolved in 3.0 mL of methanol and this solution was added to 40 mL of diethyl ether. Upon standing for about an hour a brown precipitate was formed. It was centrifuged down, washed with 45 mL of diethyl ether twice and dried in vacuo to give 191.9 mg (79.0%) of the product as a light-brown solid. 98% purity by LC/MS (230 DAD). Mass-spec [ES+]=415.5. 1H NMR (MeOH-d4) 2.28 (6H, s), 7.10–7.12 (4H, d), 7.24–7.26 (1H, d), 7.48–7.50 (2H, d), 7.54–7.56 (2H, d), 8.24–8.26 (1H, d).

reactant | 2,3-bis(4-hydroxyphenyl)-pyrido[2,3-b]pyrazin-6-ylamine | 0.5 mmol, 201.0 mg | OC1=CC=C(C=C1)C=1N=C2C(=NC1C1=CC=C(C=C1)O)N=C(C=C2)N | C19H14N4O2
reactant | acetyl chloride | 5.0 mmol, 0.355 mL, 10.0 eq | C(C)(=O)Cl | C2H3ClO
reactant | diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 3.0 mL | CO | CH4O
product | Acetic acid 4-[2-(4-acetoxy-phenyl)-6-amino-pyrido[2,3-b]pyrazin-3-yl]-phenyl ester | 191.9 mg, 79.0% | C(C)(=O)OC1=CC=C(C=C1)C=1N=C2C(=NC1C1=CC=C(C=C1)OC(C)=O)N=C(C=C2)N | C23H18N4O4
